US07307088B2
Step A: Preparation —2-[(7-fluoro-1H-indol-3-ylmethyl)-amino]-benzoic acid
A mixture of 7-fluoro-1H-indole-3-carbaldehyde (200 mg, 1.23 mmol), 2-amino-benzoic acid (168 mg, 1.23 mmol) and p-toluenesulfonic acid (20 mg, 10% W/W) was heated a reflux in toluene (5 mL) for 4 h. The mixture was cooled to RT and diluted with CH2Cl2. NaBH4 (51.4 mg) was added followed by MeOH (2 mL). The mixture was stirred for 1 h. The reaction mixture was diluted with EtOAc (10 mL) and extracted with water (2×10 mL). The organic layer was dried over Na2SO4 and concentrated in vacuo affording the titled compound as a light yellow solid. ESI MS: (M−1)=283. Calc'd for C16H13FN2O2-284.29.

reactant | 7-fluoro-1H-indole-3-carbaldehyde | 1.23 mmol, 200 mg | FC=1C=CC=C2C(=CNC12)C=O | C9H6FNO
reactant | 2-amino-benzoic acid | 1.23 mmol, 168 mg | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH4 | 51.4 mg | [BH4-].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 2 mL | CO | CH4O
product | 2-[(7-fluoro-1H-indol-3-ylmethyl)-amino]-benzoic acid | FC=1C=CC=C2C(=CNC12)CNC1=C(C(=O)O)C=CC=C1 | C16H13FN2O2
